US07399867B2
Combine 4-bromo-2-fluoro-1-methanesulfonyl-benzene (1.7 g, 6.7 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) complex with dichloromethane (Pd(dppf)Cl2.CH2Cl2, 164 mg, 0.20 mmol), bis(pinacolato)diboron (1.79 g, 7.0 mmol), potassium acetate (2 g, 20 mmol) and dimethylsulfoxide (DMSO, 100 mL). Heat the reaction mixture at 90° C. for 1 hour. Cool to room temperature and dilute with ethyl acetate (20 mL). Wash with brine (10 mL), dry with MgSO4, filter, and concentrate in vacuo. Chromatograph the residue on a SiO2 column eluting the material with ethyl acetate in hexane (30%) to give 1.74 g (80%) of 2-(3-fluoro-4-methanesulfonyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane.

reactant | 4-bromo-2-fluoro-1-methanesulfonyl-benzene | 6.7 mmol, 1.7 g | BrC1=CC(=C(C=C1)S(=O)(=O)C)F | C7H6BrFO2S
reactant | dichloromethane | 0.20 mmol, 164 mg | ClCCl | CH2Cl2
reactant | bis(pinacolato)diboron | 7.0 mmol, 1.79 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 20 mmol, 2 g | C(C)(=O)[O-].[K+]
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethylsulfoxide | 100 mL | CS(=O)C | C2H6OS
product | 2-(3-fluoro-4-methanesulfonyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 1.74 g, 80% | FC=1C=C(C=CC1S(=O)(=O)C)B1OC(C(O1)(C)C)(C)C | C13H18BFO4S
